US08809544B2
2 mL of a chloroform solution containing 0.24 g (1 mmol) of 2-t-butoxycarbonyl amino-6-methylpyridine and 0.26 g (2 mmol) of diisopropylethylamine was prepared, and was cooled in ice water. The above mixed solution was added dropwise at 0° C. to 0.3 mL of a chloroform solution containing 0.11 g (1.2 mmol) of methyl chloroformate. After stirring further for 20 minutes, the temperature was raised to room temperature. After stirring further for 5 hours at room temperature, 5 mL of water and 1 mL of 3N hydrochloric acid were added thereto, followed by liquid separation. The organic layer obtained by liquid separation was dried with magnesium sulfate, followed by filtration, and the resulting solution was concentrated under reduced pressure to obtain 0.27 g of 2-t-butoxycarbonyl-methoxycarbonyl amino-6-methyl pyridine-N-oxide (yield: 96%) as a pale yellow oily liquid which was the target product.

reactant | 2-t-butoxycarbonyl amino-6-methylpyridine | 1 mmol, 0.24 g | C(C)(C)(C)OC(=O)C1=NC(=CC=C1N)C | C11H16N2O2
reactant | diisopropylethylamine | 2 mmol, 0.26 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | methyl chloroformate | 1.2 mmol, 0.11 g | ClC(=O)OC | C2H3ClO2
reactant | hydrochloric acid | 3N, 1 mL | Cl | ClH
reactant | water | 5 mL | O | H2O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 2 mL | C(Cl)(Cl)Cl | CHCl3
product | 2-t-butoxycarbonyl-methoxycarbonyl amino-6-methyl pyridine-N-oxide | 0.27 g, yield: 96% | C(C)(C)(C)OC(=O)C1=[N+](C(=CC(=C1N)C(=O)OC)C)[O-] | C13H18N2O5
